US08802860B2
Preparation of {1-[2-(methoxymethyl)-4-nitrophenyl]-2-oxo-1,2-dihydropyridin-3-yl}acetic acid
115 g (maximum 147 mmol) of the crude product of diethyl-{1-[2-(methoxymethyl)-4-nitrophenyl]-2-oxo-1,2-dihydropyridin-3-yl}malonate were introduced as initial charge in 470 ml of dioxane at RT, 940 ml of 2N sodium hydroxide solution were added and the reaction mixture was stirred for 1.5 h at RT. By adding 313 ml of concentrated hydrochloric acid, the pH was adjusted to 1 and the mixture was then stirred for 2 h at 50° C. After cooling to RT, extraction was carried out three times with in each case 1.17 l of ethyl acetate. The combined organic phases, were washed three times with in each case 780 ml of saturated aqueous sodium chloride solution, dried over sodium sulphate, filtered and evaporated to dryness on a rotary evaporator. The residue was dissolved in a small amount of dichloromethane and chromatographically purified over 1.96 kg of silica gel (0.04-0.06 mm) with methanol:dichloromethane 5:95 to 1:9. The product fractions were evaporated to dryness on a rotary evaporator. 34.9 g (75% over 2 stages) of the desired product were isolated as oil.

reactant | diethyl-{1-[2-(methoxymethyl)-4-nitrophenyl]-2-oxo-1,2-dihydropyridin-3-yl}malonate | C(C)OC(C(C(=O)OCC)C=1C(N(C=CC1)C1=C(C=C(C=C1)[N+](=O)[O-])COC)=O)=O | C20H22N2O8
reactant | sodium hydroxide | 2N, 940 ml | [OH-].[Na+]
reactant | hydrochloric acid | 313 ml | Cl | ClH
solvent | dioxane | 470 ml | O1CCOCC1 | C4H8O2
product | {1-[2-(methoxymethyl)-4-nitrophenyl]-2-oxo-1,2-dihydropyridin-3-yl}acetic acid | COCC1=C(C=CC(=C1)[N+](=O)[O-])N1C(C(=CC=C1)CC(=O)O)=O | C15H14N2O6
